US04046900
A sample of 17.1 g of 1-acetyl-4-(2-fluoro-4-methylbenzoyl)piperidine is refluxed in 200 ml of 6N HCl for 24 hours and then stirred for an additional 6 hours at ambient temperature. The solution is extracted with ether, the aqueous layer is basified with 6N NaOH, extracted with benzene, dried and the solvent is removed under reduced pressure, leaving a yellow oil. The oil is added to ethereal hydrogen chloride and the resulting precipitate is collected, washed well with ether and dried. The solid is recrystallized from a methanol-ether mixture to give the final solid product, mp 220°-221° C. of 4-(2-fluoro-4-methylbenzoyl)piperidine hydrochloride.

reactant | 1-acetyl-4-(2-fluoro-4-methylbenzoyl)piperidine | 17.1 g | C(C)(=O)N1CCC(CC1)C(C1=C(C=C(C=C1)C)F)=O | C15H18FNO2
reactant | HCl | 6N, 200 ml | Cl | ClH
product | 4-(2-fluoro-4-methylbenzoyl)piperidine hydrochloride | Cl.FC1=C(C(=O)C2CCNCC2)C=CC(=C1)C | InChI=1S/C13H16FNO.ClH/c1-9-2-3-11(12(14)8-9)13(16)10-4-6-15-7-5-10;/h2-3,8,10,15H,4-7H2,1H3;1H
